US04292317
2.18 g of 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 3.5 cm3 of 1-methylpiperazine and 25 cm3 of dimethylsulphoxide were heated at 110° C. for 3 hours. The solvent was evaporated off in vacuo and the residue was taken up in 100 cm3 of water. The suspension was stirred and mixed with 20 cm3 of N sodium hydroxide solution. The solution obtained, which was slightly turbid, was stirred with animal charcoal and filtered, and then brought to pH 7.5 by the addition of acetic acid. The precipitate was filtered off, washed with water and then recrystallised from methyl cellosolve. 1 g of 6-chloro-1-methyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 286° C., were obtained.

reactant | 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.18 g | ClC=1C=C2C(C(=CN(C2=CC1Cl)C)C(=O)O)=O | C11H7Cl2NO3
reactant | 1-methylpiperazine | 3.5 cm3 | CN1CCNCC1 | C5H12N2
reactant | charcoal | C | CH4
solvent | dimethylsulphoxide | 25 cm3 | CS(=O)C | C2H6OS
product | 6-chloro-1-methyl-7-(4-methylpiperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1 g | ClC=1C=C2C(C(=CN(C2=CC1N1CCN(CC1)C)C)C(=O)O)=O | C16H18ClN3O3
